US08314138B2
To a solution of 2-bromo-4-methyl-thiazole-5-carboxylic acid benzyl amide (2.0 g, 6.43 mmol) in toluene (30 mL), water (10 mL) and ethanol (10 mL) was added 1H-pyrazole-5-boronic acid (1.44 g, 12.9 mmol), Pd(PPh3)4 (0.74 g, 0.643 mmol), and potassium carbonate (2.67 g, 19.3 mmol). The resulting mixture was degassed three times and heated to 100° C. for 16 hr. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (100 mL), and washed with brine (2×100 mL). The organic phase was dried (Na2SO4) and evaporated. The residue was purified by preparative thin layer chromatography over silica gel (ethyl acetate:hexane, 1:1) to provide 4-methyl-2-(2H-Pyrazol-3-yl)-thiazole-5-carboxylic acid benzylamide (1.25 g, 66% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.76 (t, J=4.0 Hz, 1H), 7.89 (d, J=4.0 Hz, 1H), 7.31-7.36 (m, 4H), 7.24-7.27 (m, 1H), 6.78 (d, J=4.0 Hz, 1H), 4.44 (d, J=4.0 Hz, 2H), 2.60 (s, 3H); MS (M+H)+=299.1; Rt=1.06 min; HRMS (M+H)+=299.10.

reactant | 2-bromo-4-methyl-thiazole-5-carboxylic acid benzyl amide | 6.43 mmol, 2.0 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)Br)C | C12H11BrN2OS
reactant | 1H-pyrazole-5-boronic acid | 12.9 mmol, 1.44 g | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | potassium carbonate | 19.3 mmol, 2.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.643 mmol, 0.74 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methyl-2-(2H-Pyrazol-3-yl)-thiazole-5-carboxylic acid benzylamide | 1.25 g, 66% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C15H14N4OS
